US04496564
A solution of 5-(3-[3-propylthioureido]pyrazol-1-yl)valeronitrile (1.01 g.) in saturated methanolic ammonia (30 ml.) was treated with orange mercuric oxide (0.82 g.) and the suspension stirred at room temperature for 18 hours. The black suspension was filtered through diatomaceous earth and the filtrate evaporated to give 5-(3-[2-propylguanidino]pyrazol-1-yl)valeronitrile as a brown oil which was used without further purification.

reactant | 5-(3-[3-propylthioureido]pyrazol-1-yl)valeronitrile | 1.01 g | C(CC)NC(NC1=NN(C=C1)CCCCC#N)=S | C12H19N5S
reactant | ammonia | 30 ml | N | H3N
product | 5-(3-[2-propylguanidino]pyrazol-1-yl)valeronitrile | C(CC)N=C(NC1=NN(C=C1)CCCCC#N)N | C12H20N6
